data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CC5=CC=CC=C5)OC.COC1CC2C3CC4=C(C2(CC[N:10]3CC5=CC=CC=C5)CC1=O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC5=CC=CC=C5.COC1CC2C3CC4=C(C2(CCN3CC5=CC=CC=C5)[CH:21]=[C:22]1[OH:23])C(=C(C=C4)OC)O.CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(C=C)SCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCSC(=[O:21])C=C 10=20;20,21=21
[H:20][CH:21]\1CCC(=C/[C:22]1=[N+:23](\[Li-][N:10](C(C)C)C(C)C)/N2CCCC2COC)C>>[H:20][N+:10]([Li-][N:23]([C:22]1=[CH:21]CCC(=C1)C)N2CCCC2COC)(C(C)C)C(C)C 10=20;20,21=21,22;22,23=23
[H:20][O+:21]=CC(=CCCC)C.[OH2:10].CC(C)(C)N>>[H:20][OH2+:10].CCCC=C(C)C=[O:21].CC(C)(C)N 10=20;20,21=21
[Li+:20].C[Si](C)(C)[C-:10]1SCCCS1.CCCC>>[Li:20][C:10]1(SCCCS1)[Si](C)(C)C.CCCC 10=20,
[H:20][C:21]1(C=C(O[CH+:22]1)C#N)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1[N+](=O)[O-])C#N 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC1=C2C3=C(CC4C5C3(CC[NH+]4CC=C)C(O2)C(=[O:10])CC5)C=C1.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3CC=C.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC12CCC3C(C14CCC2(C(C4)[OH:10])O)CCC5=C3C=CC(=C5)OC>>[H:20][OH+:10]C1CC23CCC1(C2(CCC4C3CCC5=C4C=CC(=C5)OC)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[Li:20][OH+]C(C1=CC=CC=C1)C(C)N(C)C(=O)C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[OH-:10].[Li][NH+](C(C)C)C(C)C.CC(C)NC(C)C.[I-]>>[Li-:20]([OH:10])[OH+]C(C1=CC=CC=C1)C(C)N(C)C(=O)C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[Li][NH+](C(C)C)C(C)C.CC(C)NC(C)C.[I-] 10=20,
C[S:10]C.C1=CC=C(C=C1)[S:20][C:21]#N>>C[S+:10](C)[S:20]C1=CC=CC=C1.[C-:21]#N 10=20;20,21=21
CC1CCC2C(C(OC3C24C1CCC(O3)(OO4)C)C=[C+]C[Si:20](C)(C)C)C.C1=CC=C(C=C1)[C:11](=[O:10])[O:12][Zn-](Cl)Cl>>CC1CCC2C(C(OC3C24C1CCC(O3)(OO4)C)C=[C+]C[Si-:20](C)(C)(C)[O:10][C:11](=[O+:12][Zn-](Cl)Cl)C5=CC=CC=C5)C 10,11=10,20;12=11
C[Si](C)(C)C[CH2:11][O:10][CH:20]=[OH+:21]>>C[Si](C)(C)C[CH2+:11].[CH:20](=[O:10])[OH:21] 10,11=10,20;20,21=21
[H:20][OH:21].CCC[O-:10]>>[H:20][O:10]CCC.[OH-:21] 10=20;20,21=21
CCO[C:20](C1=CC=CC=C1)([O-:10])[O:21]C(=O)CC(=O)CC2=CC=CC=C2>>CCO[C:20](=[O:10])C1=CC=CC=C1.C1=CC=C(C=C1)CC(=O)CC(=O)[O-:21] 10=20;20,21=21
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)CBr.O[S+:20](=O)=O>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[S:20](=O)(=O)O)CBr 10,11=10,20;12,13=11,12
CC1=CC=C[N:21]=[CH:20]1.[NH2-:10]>>CC1=CC=C[N-:21][CH:20]1[NH2:10] 10=20;20,21=21
CCO[P+:20](C)(C)C.COC(=O)N[N:10]=C(O)OC>>CCO[P:20](C)(C)(C)[N+:10](=C(O)OC)NC(=O)OC 10=20,
CC1CC2=CC(=C(C=C2[CH:10]=[C:11]1[N:12]3CCCC3)OC)C.[CH2:20]=[CH:21][CH:22]=[O:23]>>CC1CC2=CC(=C(C=C2[CH:10]([C:11]1=[N+:12]3CCCC3)[CH2:20][CH:21]=[CH:22][O-:23])OC)C 10,11=10,20;12=11;22,23=23;20,21=21,22
C1=CC2=C(C=C1)[CH:10]=[C:11](C=C2)Br.O[S+:20](=O)=O>>C1=CC2=C(C=C1)[CH:10]([C+:11](C=C2)Br)[S:20](=O)(=O)O 10,11=10,20
C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.C1CC2(C3=CC=CC(=C3C1=O)[O-:10])OC4=C5C(=CC=C4)C=CC=C5O2.CC1=[NH+]C(=CC=C1)C>>C[Si-:20](C)(C)([O:10]C1=C2C(=O)CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3)OS(=O)(=O)C(F)(F)F.CC1=[NH+]C(=CC=C1)C 10=20,
C[CH:20]1[N:10](CC[OH+:21]1)C>>C[CH:20]=[N+:10](C)CC[OH:21] 10=20;20,21=21
[H:20][CH:21](C(=O)N(C)CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)[S+](C)OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)[CH-:21][S+](C)OC(=O)C(F)(F)F 10=20;20,21=21
[H:20][C:21]12COC(CC1=C(C3=CC=CC(=C3[C:22]2=[O+:23]C)OC)OC)CCOCC4=CC=CC=C4.[B-]([O:10]C)(F)(F)F.CCOCC.CO>>[H:20][O+:10]([B-](F)(F)F)C.COC1=C2C(=CC=C1)C(=C3CC(OC[C:21]3=[C:22]2[O:23]C)CCOCC4=CC=CC=C4)OC.CCOCC.CO 10=20;22,23=23;20,21=21,22
[H:20][NH+:21]1C(=CCC1(C2=CC3=C(C=C2)C=C(C=C3)OC)O)C4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.COC1=CC2=C(C=C1)C=C(C=C2)C3(CC=C([NH:21]3)C4=CC=CC=C4)O.O 10=20;20,21=21
CC[OH:10].CC(C)[C+:20]1CCCC1>>CC[OH+:10][C:20]1(CCCC1)C(C)C 10=20,
[CH3:20][O:21][P+:22](C)(C)C.C[S-:10]>>C[P:22](=[O:21])(C)C.C[S:10][CH3:20] 10=20;20,21=21,22
[Li:10][P+:11](C)(C)C>>[Li+:10].C[P:11](C)C 10,11=11
CC1(CC2C1CC[C:20](C3CCC2C3)([OH:10])[OH+:21]C)C.O>>CC1(CC2C1CC[C:20](=[OH+:10])C3CCC2C3)C.C[OH:21].O 10=20;20,21=21
[H:10][C:11]1(CCC(CC1)CC(C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1)CC(C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.CP(=[O:10])(C)C>>[H:20][O+:10]=P(C)(C)C.CC(=O)[O-:21] 10=20;20,21=21
CCC(=O)[O:21][C:20](C)([O-:10])OC(=O)C>>CC(=O)O[C:20](=[O:10])C.CCC(=O)[O-:21] 10=20;20,21=21
[H:20][NH+:21](C(C)C(=O)NC(CCO)C(=O)[O-])C([O-])(OCC1C2=C(C=CC=C2)C3=CC=CC=C13)ON4C(=O)CCC4=O.C(=O)([O-:10])[O-]>>[H:20][O:10]C(=O)[O-].CC(C(=O)NC(CCO)C(=O)[O-])[NH:21]C([O-])(OCC1C2=C(C=CC=C2)C3=CC=CC=C13)ON4C(=O)CCC4=O 10=20;20,21=21
